US07919506B2
Preparation 17: 1-(2-(((3,5-Bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol
To a solution of (2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)(cyclohexyl)methanone (52 mg, 0.085 mmol) in anhydrous THF (10 mL) under nitrogen at 0° C. was added methylmagnesium bromide (3.0 M solution in THF, 25.6 mg, 0.114 mL, 0.342 mmol). The solution was stirred at 0° C. for 30 minutes, then warmed to room temperature and stirred for 1.5 hours. The solution was then poured into a mixture of 2 N hydrochloric acid (10 mL) and ethyl acetate (20 mL). The solution was stirred at room temperature for 10 minutes then the layers were separated and the aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organics layer was dried with anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography on a 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 1-50% ethyl acetate in heptane) to yield the title compound (97.2%). 1H NMR (400 MHz, CDCl3) δ 7.73 (s, 1H) 7.68 (s, 2H) 7.33 (s, 1H) 7.17 (s, 1H) 5.39 (d, J=16.17 Hz, 1H) 4.82 (d, J=15.76 Hz, 1H) 4.77(s, 2H) 4.15(s, 3H) 2.39 (s, 3H) 1.62 (m, 6H) 1.24 (s, 3H) 1.04 (m, 5H). LC-MS calc. 623.5, found 624.6 (M+H)

reactant | (2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)(cyclohexyl)methanone | 0.085 mmol, 52 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=C(C(=C2)C(F)(F)F)C)C(=O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C27H26F9N5O
reactant | methylmagnesium bromide | 0.342 mmol, 3.0 M, 0.114 mL, 25.6 mg | C[Mg]Br
reactant | hydrochloric acid | 2 N, 10 mL | Cl | ClH
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-(((3,5-Bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol | 97.2% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=C(C(=C2)C(F)(F)F)C)C(C)(O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C28H30F9N5O
